Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins / Aspirin
 
Attending: ___.
 
Chief Complaint:
Suprapubic pain and dysuria
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Ms. ___ is an ___ year old woman with h/o HTN, Afib on 
Warfarin, CVA, and osteoporosis, who presents with back pain and 
suprapubic pain. In ___ she was in ___ and she had similar 
symptoms; she was treated with antibiotics though she does not 
remember the medication.  She has had burning with urination, 
and family has noted foul smelling urine. She has had decreased 
PO intake for the past 3 days. No fevers, nausea, vomiting, or 
diarrhea. No recent falls.  
 
In the ED, initial VS: 97.8 78 138/76 16 100% on RA. Patient 
found to have dirty UA and was given Ceftriaxone and 1L IVF. 
Vitals prior to transfer: 98.3, 86, 16, 134/68, 98%.  
 
On the floor, the patient denies any suprapubic pain or dysuria. 
Her daughter is present and says that her mom does not usually 
complain to her doctors of any ___, even though she may 
have some. She says the only thing her mother has been 
complaining about is pain along her spine from a previous 
vertebral fracture. She feels that her mother's level of 
orientation is basically at baseline, except she does not know 
the name of the hospital because they are from ___ and not 
familiar enough with ___. She is not normally aware of the 
exact date.
 
Past Medical History:
PMH
Afib on Coumadin  
HTN  
Osteoporosis  
Hypothyroidism
CVA ___

 
Social History:
___
Family History:
No family history of stroke or seizures.  
Daughter with thyroid disease.  Parents died of natural causes 
at age ___ and ___.   

 
Physical Exam:
ADMISSION EXAM
VS - 97.7 138/63 81 18 96%RA  
GENERAL - thin elderly woman, NAD  
HEENT - NC/AT, EOMI, dry MM  
NECK - supple  
LUNGS - CTA bilat  
HEART - irregular, no m/r/g  
ABDOMEN - NABS, soft, mild ttp suprapubic region, ND, no masses 
or HSM, no rebound/guarding  
EXTREMITIES - WWP, no c/c/e, 2+ peripheral pulses (radials, DPs) 
 
SKIN - no rashes or lesions  

DISCHARGE EXAM
GENERAL - pleasant, thin, ___ speaking elderly woman in NAD. 
She is oriented to person and city, country only.
HEENT - NCAT, EOMI, MMM, conjunctiva pink, sclera anicteric
NECK - supple, no LAD or thyromegaly
CV - RRR, no murmurs gallops or rubs, normal S1 and S2
RESP - good aeration, CTAB, no wheezes, rales, or rhonchi
ABD - soft, non distended, contender, normo-active BS, no 
rebound or guarding
GU - no foley
EXTREMITIES - wwp, no c/c/e, 2+ peripheral pulses
NEURO - CN II-XII intact, symmetric strength and sensation, no 
focal deficits
SKIN - no rashes, lesions
 
Pertinent Results:
ADMISSION LABS:
___ 01:10AM BLOOD WBC-6.5# RBC-4.22 Hgb-12.7 Hct-37.6 
MCV-89 MCH-30.2 MCHC-33.9 RDW-13.7 Plt ___
___ 01:10AM BLOOD Neuts-70.6* ___ Monos-6.2 Eos-2.9 
Baso-0.4
___ 01:10AM BLOOD ___ PTT-41.8* ___
___ 01:10AM BLOOD Glucose-105* UreaN-10 Creat-0.7 Na-125* 
K-4.2 Cl-90* HCO3-27 AnGap-12
___ 08:40AM BLOOD Calcium-9.0 Phos-2.6* Mg-1.6
___ 07:35AM BLOOD TSH-3.3

DISCHARGE LABS:
___ 07:35AM BLOOD WBC-5.9 RBC-4.03* Hgb-12.4 Hct-37.0 
MCV-92 MCH-30.7 MCHC-33.5 RDW-14.1 Plt ___
___ 06:45AM BLOOD ___
___ 07:35AM BLOOD Glucose-90 UreaN-10 Creat-0.7 Na-134 
K-3.6 Cl-98 HCO3-26 AnGap-14

MICRO DATA:
___ 02:50AM URINE Color-Straw Appear-Hazy Sp ___
___ 02:50AM URINE Blood-MOD Nitrite-POS Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-7.0 Leuks-LG
___ 02:50AM URINE RBC-2 WBC-77* Bacteri-FEW Yeast-NONE 
Epi-9 TransE-1
___ 3:09AM URINE CULTURE (Final ___: 
      Culture workup discontinued. Further incubation showed 
contamination
      with mixed skin/genital flora. Clinical significance of 
isolate(s)
      uncertain. Interpret with caution. 
      ESCHERICHIA COLI.    >100,000 ORGANISMS/ML.. 
         Cefazolin interpretative criteria are based on a dosage 
regimen of
         2g every 8h. 
         Piperacillin/tazobactam sensitivity testing available 
on request. 
                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             ESCHERICHIA COLI
                             |   
AMPICILLIN------------  =>32 R
AMPICILLIN/SULBACTAM--    16 I
CEFAZOLIN-------------   <=4 S
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------   <=1 S
CIPROFLOXACIN---------   0.5 S
GENTAMICIN------------   <=1 S
MEROPENEM-------------<=0.25 S
NITROFURANTOIN--------  <=16 S
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----   <=1 S
 
Brief Hospital Course:
Mrs. ___ is an ___ lady woman with a history of CVA, Afib 
(on Warfarin), hypothyroidism, and HTN who presented with 3 days 
of fever, dysuria, and suprapubic pain and was found to have a 
UTI.  Her symptoms resolved with antibiotics and she was 
discharged home.

ACTIVE ISSUES

#. UTI: E.coli, sensitive to Bactrim.
She was found to have positive UA and urine cultures positive 
for E.coli, sensitive to Bactrim.  She had been treated with IV 
Ceftriaxone but when culture data returned she was discharged 
home to complete a 10 day course of antibiotics.  Bactrim will 
end ___.

#. Supratherapeutic INR: now resolved.
The pt came in with INR of 3.3. Her warfarin was held for one 
day and restarted again at 1mg. On her third day of 
hospitalization we increased it to 2mg. She takes 3mg daily as 
outpatient. Her PCP manages her ___ she was advised to 
follow-up there for an INR check 2 days after discharge.

#. Delirium: resolving.
Per family, she was slightly more confused than baseline, which 
was attributed to her infection and also to being in an 
unfamiliar environment.  She was oriented x place (hospital in 
the ___) but she did not know the date - per family, this is 
baseline.  By the time of discharge, family said that she was at 
baseline.  She was evaluated by ___ who felt she was stable to go 
home with 24H supervision by her family for a few days.

#. Hyponatremia: resolved, likely hypovolemic hyponatremia.
She was found to have low sodium on admission which responded 
promptly to IV fluids. Per her daughter, she was not taking in 
many fluids prior to admission, and we believe the diagnoses was 
hypovolemic hyponatremia.  Resolved by discharge.

INACTIVE ISSUES

#. Back pain: chronic issue.
The patient complained of back pain when lying down in bed. Her 
daughter attributes this to previous spinal compression 
fractures secondary to osteoporosis. We treated her pain with 
tylenol, and she improved. 

#. HTN: stable.
Documented history of HTN, on atenolol 100mg po daily as 
outpatient. We continued her regimen in the hospital. Her blood 
pressure readings were reasonable and no adjustment of her 
medications was needed.

#. Afib: on Warfarin.
Team adjusted warfarin dose as described above. Her condition 
remained stable.

#. Hypothyroidism: stable.
Her TSH was measured and found to be normal. We did not adjust 
her levothyroxine dose.

#. h/o CVA: stable.
Tthe patient has a recent history of CVA with previous 
admission. She did not exhibit signs of recurrence during this 
admission. 

TRANSITIONAL ISSUES
 
#. Code status: Full Code
#. Emergency contact: daughter ___ ___
#. Communication: Patient is ___ only, and is hard 
of hearing
#. Labs/studies pending at the time of discharge: None
 
Medications on Admission:
Alendronate 70mg PO qweek  
Warfarin 3mg PO daily  
Atenolol 100mg PO daily  
Calcium-Vitamin D 1tab PO BID  
Vitamin D 2000units PO daily  
Levothyroxine 25mcg PO daily  

 
Discharge Medications:
1. Acetaminophen 1000 mg PO Q8H:PRN pain 
2. Atenolol 100 mg PO DAILY 
3. Levothyroxine Sodium 25 mcg PO DAILY 
4. Vitamin D ___ UNIT PO DAILY 
5. Warfarin 2 mg PO DAILY16 
6. Alendronate Sodium 70 mg PO ONCE A WEEK 
7. Calcium with Vitamin D *NF* (calcium carbonate-vitamin D3) 
600 mg(1,500mg) -400 unit Oral twice a day 
8. Sulfameth/Trimethoprim DS 1 TAB PO BID 
(___nds ___ 
RX *Bactrim DS 800 mg-160 mg 1 Tablet(s) by mouth twice a day 
Disp #*9 Tablet Refills:*0

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
-Urinary tract infection
-hyponatremia
-hypertension
-atrial fibrillation

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to ___ for painful urination and lower 
abdominal pain. We ran tests on your urine and found you to have 
a urinary tract infection. We gave you antibiotics for to help 
clear the infection, based on the urine culture sensitivities. 
Now your symptoms are resolving and you are safe to be 
discharged home.  Please continue taking Bactrim to clear the 
infection in your urinary tract through ___. 

Note that when you came here, your INR was measured too high, so 
we held your warfarin for one day and restarted you on a lower 
dose.  Please continue to take your Warfarin at the lower dose 
of 2mg daily and follow up with your primary care provider day 
after tomorrow to have your INR rechecked.

While you were here, you were evaluated by Physical Therapy who 
felt you were safe to be discharged home with home ___. You are 
safe to be discharged home with plans to follow up with our PCP. 
If you have any recurring symptoms, you should seek emergent 
help.

We have made the following changes to your medications:
-start Bactrim (through ___, then stop)
-change Warfarin to 2mg daily
-start Tylenol (Acetaminophen) as needed for back pain - do not 
exceed a total of 3 grams daily
 
Followup Instructions:
___